US07700599B2
1,1-Dimethylethyl (4-formyl-3-methylphenyl)methylcarbamate (D93)
The title compound was prepared from crude 4-bromo-2-methylbenzaldehyde (D91) and 1,1-dimethylethyl methylcarbamate (D83) using a method similar to that described for D84 in Description 84. δH (CDCl3, 400 MHz) 10.20 (1H, s), 7.76 (1H, d), 7.28 (1H, dd), 7.19 (1H, d), 3.31 (3H, s), 2.66 (3H, s), 1.49 (9H, s).

reactant | 4-bromo-2-methylbenzaldehyde | BrC1=CC(=C(C=O)C=C1)C | C8H7BrO
reactant | 1,1-dimethylethyl methylcarbamate | CNC(OC(C)(C)C)=O | C6H13NO2
product | 1,1-Dimethylethyl (4-formyl-3-methylphenyl)methylcarbamate | C(=O)C1=C(C=C(C=C1)CNC(OC(C)(C)C)=O)C | C14H19NO3
